US04814312
To the solid component mentioned above, 40 ml of toluene was added and titanium tetrachloride was added in an amount calculated to give a volumetric titanium tetrachloride/toluene ratio of 3/2. The resultant combined liquid was heated to 90° C. The hot mixture was kept stirred and a mixed solution of 2 ml of di-n-butyl phthalate and 5 ml of toluene was added dropwise to the hot mixture over a period of five minutes. The resultant mixture was stirred at 120° C. for two hours. The solid product consequently obtained in the mixture was separated by filtration and washed at 90° C. two times each with 100 ml of toluene. Further, the washed solid product and titanium tetrachloride added thereto in an amount calculated to give a voluminal volumetric titanium tetrachloride/toluene ratio of 3/2 were stirred at 120° C. for two hours. The solid substance consequently formed therein was separated by filtration at 110° C. and washed seven times each with 100 ml of n-hexane at room temperature, to obtain 5.5 g of a catalyst component.

reactant | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | titanium tetrachloride toluene | [Ti](Cl)(Cl)(Cl)Cl.C1(=CC=CC=C1)C | InChI=1S/C7H8.4ClH.Ti/c1-7-5-3-2-4-6-7;;;;;/h2-6H,1H3;4*1H;/q;;;;;+4/p-4
